US08383644B2
2-Bromo-1-[3-(3,4-dichloro-benzyloxy)-phenyl]-ethanone
1-[3-(3,4-Dichloro-benzyloxy)-phenyl]-ethanone (30 g) was dissolved in MeOH:DCM (2:1, 300 mL) and pyrolidone hydrotribromide (75 g) was added portion wise and stirred at room temperature for 3 hours. After completion of the reaction, the mixture was concentrated in vacuo and poured into saturated sodium bicarbonate solution (200 mL) and extracted with ethyl acetate (2×200 mL). The organic extracts were combined and washed with brine and concentrated in vacuo. Then this residue was dissolved in DCM (75 mL) and product was precipitated by slow addition of methanol (75 mL), filtered and dried in vacuum (29 g). 1H NMR (400 MHz, CDCl3): 7.62-7.54 (m, 3H), 7.47 (d, 1H), 7.42 (t, 1H), 7.25-7.30 (m, 1H), 7.18-7.23 (m, 1H), 5.07 (s, 2H), 4.44 (s, 2H).

reactant | 1-[3-(3,4-Dichloro-benzyloxy)-phenyl]-ethanone | 30 g | ClC=1C=C(COC=2C=C(C=CC2)C(C)=O)C=CC1Cl | C15H12Cl2O2
reactant | pyrolidone hydrotribromide | 75 g | C1CC(=O)NC1.Br[Br-]Br
solvent | MeOH DCM | 300 mL | CO.C(Cl)Cl
product | 2-Bromo-1-[3-(3,4-dichloro-benzyloxy)-phenyl]-ethanone | BrCC(=O)C1=CC(=CC=C1)OCC1=CC(=C(C=C1)Cl)Cl | C15H11BrCl2O2
